US04767760
To 30 parts of a sulfuric acid solution in water (90:10 by volume) were added portionwise during a period of 5 minutes 2 parts of 2-chloro-α-(4-chlorophenyl)-4-(4,5-dihydro-3,5-dioxo-1,2,4-triazin-2(3H)-yl)benzeneacetonitrile at room temperature. Upon completion, stirring was continued for 2 hours at 80° C. The reaction mixture was poured into ice water. The product was filtered off, washed with water and purified by column chromatography over silica gel using a mixture of trichloromethane and methanol (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated in vacuo. The residue was stirred in 2,2'-oxybispropane. The product was filtered off and dried, yielding 1.1 parts (54%) of 2-chloro-α-(4-chlorophenyl)-4-(4,5-dihydro-3,5-dioxo-1,2,4-triazin-2(3H)-yl)-benzeneacetamide; mp. 160.7° C. (intermediate 26).

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 2-chloro-α-(4-chlorophenyl)-4-(4,5-dihydro-3,5-dioxo-1,2,4-triazin-2(3H)-yl)benzeneacetonitrile | ClC1=C(C=CC(=C1)N1N=CC(NC1=O)=O)C(C#N)C1=CC=C(C=C1)Cl | C17H10Cl2N4O2
solvent | water | O | H2O
product | 2-chloro-α-(4-chlorophenyl)-4-(4,5-dihydro-3,5-dioxo-1,2,4-triazin-2(3H)-yl)-benzeneacetamide | 54% | ClC1=C(C=CC(=C1)N1N=CC(NC1=O)=O)C(C(=O)N)C1=CC=C(C=C1)Cl | C17H12Cl2N4O3
